US04128648
A. Tetrahydro-3,5-bis[(4-methoxy-2,3-dimethylphenyl)methylene]-4H-pyran-4-one
A solution of 6.0 g (0.06 mole) of tetrahydro-4H-pyran-4-one, 21.6 g (0.13 mole) of 2,3-dimethyl-p-anisaldehyde in 75 ml of EtOH and 10 ml of concentrated HCl is stirred and heated at reflux for 3 hours. The product gradually precipitates during this period. After cooling, this material is filtered and treated with ether to give 9.1 g (39%) of yellow crystals, m.p. 225°-227°.

reactant | tetrahydro-4H-pyran-4-one | 0.06 mole, 6.0 g | O1CCC(CC1)=O | C5H8O2
reactant | 2,3-dimethyl-p-anisaldehyde | 0.13 mole, 21.6 g | CC1=C(C=O)C=CC(=C1C)OC | C10H12O2
solvent | EtOH | 75 ml | CCO | C2H6O
solvent | HCl | 10 ml | Cl | ClH
product | Tetrahydro-3,5-bis[(4-methoxy-2,3-dimethylphenyl)methylene]-4H-pyran-4-one | 9.1 g, 39% | COC1=C(C(=C(C=C1)C=C1COCC(C1=O)=CC1=C(C(=C(C=C1)OC)C)C)C)C | C25H28O4
